US06271406B1
Preparation of 1-(chlorodimethylsilyl)-2-(dichloromethylsilyl)ethane C5H11Si2Cl3
Example 1 was repeated with the modification that, instead of 300.0 g (1.41 mol) of 1,2-bis(chlorodimethylsilyl)ethene, 300.0 g (1.28 mol) of 1-(chlorodimethylsilyl)-2-(dichloromethylsilyl)ethene were used. The results are summarized in Table 1.

reactant | 1,2-bis(chlorodimethylsilyl)ethene | 1.41 mol, 300.0 g | Cl[Si](C=C[Si](C)(C)Cl)(C)C | C6H14Cl2Si2
reactant | 1-(chlorodimethylsilyl)-2-(dichloromethylsilyl)ethene | 1.28 mol, 300.0 g | Cl[Si](C=C[SiH2]C(Cl)Cl)(C)C | C5H11Cl3Si2
product | 1-(chlorodimethylsilyl)-2-(dichloromethylsilyl)ethane | Cl[Si](CC[SiH2]C(Cl)Cl)(C)C | C5H13Cl3Si2
